US05350743
99.5 g of nitrocyclohexane was dissolved in 40 ml of t-butanol, and 83.4 ml of ethyl acrylate was added thereto in the presence of 7 ml of 40% Triton B. The mixture was reacted at room temperature to give 153 g (yield: 87%) of 1-nitro-l-(2-ethoxycarbonylethyl)cyclohexane. Then, 20 g of this substance was dissolved in ethanol and 3.6 g of Raney nickel was added thereto. The mixture was strongly stirred in the presence of hydrogen gas (70 kg/cm2), and then the Raney nickel was removed. The reaction solution was refluxed under heating for 5 hours. Then, ethanol was distilled off to give 8.0 g (yield: 62%) of 1-aza-2-oxospiro[4.5]decane8.0 g of this substance was dissolved in 30 ml of THF, and 3.6 g of LiAlH4 was added thereto. The mixture was reacted at room temperature for 15 hours to give 7.4 g (yield: 83%) of 1-azaspiro[4.5]decane.

reactant | nitrocyclohexane | 99.5 g | [N+](=O)([O-])C1CCCCC1 | C6H11NO2
reactant | ethyl acrylate | 83.4 ml | C(C=C)(=O)OCC | C5H8O2
solvent | t-butanol | 40 ml | C(C)(C)(C)O | C4H10O
product | 1-nitro-l-(2-ethoxycarbonylethyl)cyclohexane | 153 g, yield: 87% | [N+](=O)([O-])C1(CCCCC1)CCC(=O)OCC | C11H19NO4
